US07696229B2
Ia: Synthesis of tert-butyl 4-(1-{[3-(3-methoxypyrrolidin-1-yl)phenyl]sulfonyl}-1H-pyrrolo[3,2-b]pyridin-3-yl)-3,6-dihydropyridine-1(2H)-carboxylate
Into a 1-Neck round-bottom flask tert-butyl 4-(1H-pyrrolo[3,2-b]pyridin-3-yl)-3,6-dihydropyridine-1(2H)-carboxylate (100 mg, 0.000334 mol) was stirred in tetrahydrofuran (3 mL, 0.04 mol) and N,N-dimethylformamide (3 mL, 0.04 mol) at 5° C. and 1.0 M of sodium bis(trimethylsilyl)amide in tetrahydrofuran (0.50 mL) was added. The reaction was stirred for 20 minutes at 5° C. 3-(3-Methoxypyrrolidin-1-yl)benzenesulfonyl chloride (138 mg, 0.000501 mol) in tetrahydrofuran (3 mL, 0.04 mol) was added by syringe at 5° C. and the reaction was stirred for 30 minutes. The reaction was extracted with ethyl acetate and was washed with water and brine. The solvent was rotovaped.

reactant | tert-butyl 4-(1H-pyrrolo[3,2-b]pyridin-3-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.000334 mol, 100 mg | N1C=C(C2=NC=CC=C21)C=2CCN(CC2)C(=O)OC(C)(C)C | C17H21N3O2
reactant | N,N-dimethylformamide | 0.04 mol, 3 mL | CN(C=O)C | C3H7NO
reactant | sodium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-(3-Methoxypyrrolidin-1-yl)benzenesulfonyl chloride | 0.000501 mol, 138 mg | COC1CN(CC1)C=1C=C(C=CC1)S(=O)(=O)Cl | C11H14ClNO3S
solvent | tetrahydrofuran | 0.50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.04 mol, 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.04 mol, 3 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(1-{[3-(3-methoxypyrrolidin-1-yl)phenyl]sulfonyl}-1H-pyrrolo[3,2-b]pyridin-3-yl)-3,6-dihydropyridine-1(2H)-carboxylate | COC1CN(CC1)C=1C=C(C=CC1)S(=O)(=O)N1C=C(C2=NC=CC=C21)C=2CCN(CC2)C(=O)OC(C)(C)C | C28H34N4O5S
